* test pz

iin     1       0       ac
r1      1       0       1Ohms
l1      1       0       0.05H

gm2     2       0       1 0 1
r2      2       0       1Ohms
l2      2       0       0.05H

gm3     3       0       2 0 1
r3      3       0       1Ohms
l3      3       0       0.05H

*gm4    4       0       3 0 1
*r4     4       0       1Ohms
*l4     4       0       0.05H

*gm5    5       0       4 0 1
*r5     5       0       10Ohms
*l5     5       0       0.66mH

.pz     1 0     3 0     cur pol
.print pz all

.control
run
print all
edit
.endc
